US08912210B2
Step A: Methyl N-(tert-butoxycarbonyl)-4-(2-methylphenyl)-5-oxonorleucinate
To a solution of methyl N-(tert-butoxycarbonyl)-3-iodo-D-alaninate (1.58 g, 4.80 mmol) in DMF (24 mL) was added cesium carbonate (1.56 g, 4.80 mmol) and the mixture was stirred at 23° C. for 45 min. 1-(2-Methylphenyl)-propan-2-one (0.783 g, 5.28 mmol) and cesium carbonate (2.35 g, 7.20 mmol) were added and the resulting mixture was stirred for 18 h. The mixture was filtered and water was added to the filtrate. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with water (3×), brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (5% ethyl acetate→40% ethyl acetate/hexane) gave the title compound. MS: m/z=350.1 (M+1).

reactant | methyl N-(tert-butoxycarbonyl)-3-iodo-D-alaninate | 4.80 mmol, 1.58 g | C(C)(C)(C)OC(=O)N[C@H](CI)C(=O)OC | C9H16INO4
reactant | cesium carbonate | 4.80 mmol, 1.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-Methylphenyl)-propan-2-one | 5.28 mmol, 0.783 g | CC1=C(C=CC=C1)CC(C)=O | C10H12O
reactant | cesium carbonate | 7.20 mmol, 2.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
product | Methyl N-(tert-butoxycarbonyl)-4-(2-methylphenyl)-5-oxonorleucinate | C(C)(C)(C)OC(=O)N[C@@H](CC(C(C)=O)C1=C(C=CC=C1)C)C(=O)OC | C19H27NO5
